US07335658B2
1-HEXYL-3-{6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZIN-3-YL}UREA
Following the procedure of Example 5, making variations only as required to use hexylisocyanate in place of (2-isocyanatocyclopropyl)benzene to react with [4-(6-aminopyridazin-3-yl)piperazin-1-yl](2-trifluoromethylphenyl)methanone, the title compound was obtained as a white powder (50% yield). 1H NMR (300 MHz, CD3OD) δ 7.83, 7.76, 7.69, 7.52, 7.44, 7.39, 3.87-4.00, 3.66, 3.50, 3.25-3.43, 1.53-1.67, 1.28-1.48, 0.84-0.98. MS (ES+) m/z 479 (M+1).

reactant | hexylisocyanate | C(CCCCC)N=C=O | C7H13NO
reactant | [4-(6-aminopyridazin-3-yl)piperazin-1-yl](2-trifluoromethylphenyl)methanone | NC1=CC=C(N=N1)N1CCN(CC1)C(=O)C1=C(C=CC=C1)C(F)(F)F | C16H16F3N5O
product | 1-HEXYL-3-{6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZIN-3-YL}UREA | C(CCCCC)NC(=O)NC=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C23H29F3N6O2
